US09382243B2
(4′-(6-chloro-2-(((3R,5 S,6R)-5-hydroxy-6-(hydroxymethyl)tetrahydro-2H-pyran-3-yl)oxy)-1H-imidazo[4,5-b]pyridin-5-yl)-[1,1′-biphenyl]-4-yl)((R)-3-hydroxypyrrolidin-1-yl)methanone
To a solution of (4′-(6-chloro-2-(((4aR,7R,8aS)-2-phenylhexahydropyrano[3,2-d][1,3]dioxin-7-yl)oxy)-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-imidazo[4,5-b]pyridin-5-yl)-[1,1′-biphenyl]-4-yl)((R)-3-((2-(trimethylsilyl)ethoxy)methoxy)pyrrolidin-1-yl)methanone (181 mg, 0.198 mmol) in formic acid (1 ml, 26.1 mmol) at 0° C., was added saturated potassium hydrogen sulfate (0.2 ml, 0.198 mmol). The resulting mixture was stirred at room temperature for 48 h. The reaction mixture was then cooled down to 0° C. and basified to pH 11 with 2.5N NaOH. The mixture was stirred at room temperature for 30 minutes, then the layers were separated. The aqueous layer was extracted with EtOAc; and the combined organic layers was washed with brine, dried over Na2SO4, filtered and concentrated in vacuo. The purification of the resulting residue by HPLC eluting with 10-100% MeCN:H2O 0.1% formic acid afforded the title compound LC-MS: calculated for C29H29ClN4O6 564.18 observed m/e: 565.09 (M+H)+ (Rt: 1.72/4 min).

reactant | (4′-(6-chloro-2-(((4aR,7R,8aS)-2-phenylhexahydropyrano[3,2-d][1,3]dioxin-7-yl)oxy)-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-imidazo[4,5-b]pyridin-5-yl)-[1,1′-biphenyl]-4-yl)((R)-3-((2-(trimethylsilyl)ethoxy)methoxy)pyrrolidin-1-yl)methanone | 0.198 mmol, 181 mg | ClC=1C=C2C(=NC1C1=CC=C(C=C1)C1=CC=C(C=C1)C(=O)N1C[C@@H](CC1)OCOCC[Si](C)(C)C)N=C(N2COCC[Si](C)(C)C)O[C@@H]2C[C@@H]1OC(OC[C@H]1OC2)C2=CC=CC=C2 | C48H61ClN4O8Si2
reactant | formic acid | 26.1 mmol, 1 ml | C(=O)O | CH2O2
reactant | potassium hydrogen sulfate | 0.198 mmol, 0.2 ml | S(=O)(=O)(O)[O-].[K+]
reactant | NaOH | 2.5N | [OH-].[Na+]
product | (4′-(6-chloro-2-(((3R,5 S,6R)-5-hydroxy-6-(hydroxymethyl)tetrahydro-2H-pyran-3-yl)oxy)-1H-imidazo[4,5-b]pyridin-5-yl)-[1,1′-biphenyl]-4-yl)((R)-3-hydroxypyrrolidin-1-yl)methanone | ClC=1C=C2C(=NC1C1=CC=C(C=C1)C1=CC=C(C=C1)C(=O)N1C[C@@H](CC1)O)N=C(N2)O[C@H]2CO[C@@H]([C@H](C2)O)CO | C29H29ClN4O6
